US05124331
3,4,5,6,7,8-Hexahydro-3-(2-chlorophenyl)-2-(4-ethyl-1-piperazinylmethyl)-4-oxo(1)benzothieno[2,3-d]pyrimidine
In 40 ml of chloroform was dissolved 820 mg of 3,4,5,6,7,8-hexahydro-2-chloromethyl-3-(2-chlorophenyl)-4-oxo(1)-benzothieno[2,3-d]pyrimidine, and 300 mg of potassium carbonate was added. Further, 310 mg of 1-ethylpiperazine was added dropwise. The mixture was heated under reflux for 5 hours. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure to give an oily substance, which was purified by silica gel chromatography. The obtained white crystals were recrystallized from ethanol to give 680 mg of the title compound, m.p. 140°-142° C.

reactant | 3,4,5,6,7,8-hexahydro-2-chloromethyl-3-(2-chlorophenyl)-4-oxo(1)-benzothieno[2,3-d]pyrimidine | 820 mg | ClCC=1N(C(C2=C(N1)SC1=C2CCCC1)=O)C1=C(C=CC=C1)Cl | C17H14Cl2N2OS
reactant | potassium carbonate | 300 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-ethylpiperazine | 310 mg | C(C)N1CCNCC1 | C6H14N2
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,4,5,6,7,8-Hexahydro-3-(2-chlorophenyl)-2-(4-ethyl-1-piperazinylmethyl)-4-oxo(1)benzothieno[2,3-d]pyrimidine | 680 mg | ClC1=C(C=CC=C1)N1C(=NC2=C(C1=O)C1=C(S2)CCCC1)CN1CCN(CC1)CC | C23H27ClN4OS
